US07199239B2
Intermediate 77: Ethyl [4-({butyl[6-(4-chlorophenyl)pyrazin-2-yl]amino}methyl)-2-methylphenoxy]acetate
A mixture of 2-bromo-6-(4-chlorophenyl)pyrazine (0.27 g, 1 mmol), N,N-diisopropylethylamine (0.18 mL, 1 mmol) and ethyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate (0.42 g, 1.5 mmol) was heated at 100° C. in a sealed reactivial for 18 h. The reaction mixture was then allowed to come to room temperature and the residue dissolved in CH2Cl2 (50 mL), the organic extract was washed water (15 mL) and passed through a hydrophobic frit before concentrating in vacuo. Purification by Biotage™ chromatography (Si, 40 g) eluting 1:9–1:1.5 EtOAc:cyclohexane afforded the title compound as a pale yellow oil 78 mg.

reactant | 2-bromo-6-(4-chlorophenyl)pyrazine | 1 mmol, 0.27 g | BrC1=NC(=CN=C1)C1=CC=C(C=C1)Cl | C10H6BrClN2
reactant | N,N-diisopropylethylamine | 1 mmol, 0.18 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate | 1.5 mmol, 0.42 g | C(CCC)NCC1=CC(=C(OCC(=O)OCC)C=C1)C | C16H25NO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [4-({butyl[6-(4-chlorophenyl)pyrazin-2-yl]amino}methyl)-2-methylphenoxy]acetate | 78 mg | C(CCC)N(C1=NC(=CN=C1)C1=CC=C(C=C1)Cl)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C26H30ClN3O3
